US05149717
b) 3-(3-acetyl-4-hydroxy-5-propylphenoxy)-propyl-triphenylphosphonium bromide
The title compound is prepared analogously to Example 1c) from 3-(3-acetyl-4-hydroxy-5-propylphenoxy)-propyl bromide and triphenylphosphine; m.p. 103°-105°.

reactant | 3-(3-acetyl-4-hydroxy-5-propylphenoxy)-propyl bromide | C(C)(=O)C=1C=C(OCCCBr)C=C(C1O)CCC | C14H19BrO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(3-acetyl-4-hydroxy-5-propylphenoxy)-propyl-triphenylphosphonium bromide | [Br-].C(C)(=O)C=1C=C(OCCC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1O)CCC | InChI=1S/C32H33O3P.BrH/c1-3-14-26-23-27(24-31(25(2)33)32(26)34)35-21-13-22-36(28-15-7-4-8-16-28,29-17-9-5-10-18-29)30-19-11-6-12-20-30;/h4-12,15-20,23-24H,3,13-14,21-22H2,1-2H3;1H
